### PR TITLE
[Merged by Bors] - chore: remove `CanonicallyOrdered{Mul, Add}.toOrderBot`

### PR DESCRIPTION
**Pull request by astrainfinita**
This will allow us to use `CanonicallyOrdered{Mul, Add}` with order typeclasses that extend `Bot`.

Co-authored-by: Peter Nelson <71660771+apnelson1@users.noreply.github.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

[Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/bot_eq_zero.20in.20complete.20lattice/with/512387701)

### CODE REVIEW

File: Mathlib/Algebra/Order/Monoid/Canonical/Defs.lean [hunk 1]
```diff
@@ -191,12 +186,27 @@ end Preorder
...
+theorem one_lt_of_ne_one (h : a ≠ 1) : 1 < a :=
+  one_lt_iff_ne_one.2 h
 
+@[to_additive]
+theorem eq_one_or_one_lt (a : α) : a = 1 ∨ 1 < a := (one_le a).eq_or_lt.imp_left Eq.symm
+
+@[to_additive]
+lemma one_not_mem_iff [OrderBot α] {s : Set α} : 1 ∉ s ↔ ∀ x ∈ s, 1 < x :=
+  bot_eq_one (α := α) ▸ bot_not_mem_iff
 alias NE.ne.pos := pos_of_ne_zero
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/Monoid/Canonical/Defs.lean:210]: missing blank line
```suggestion

alias NE.ne.pos := pos_of_ne_zero
```

File: Mathlib/Data/Finsupp/Interval.lean [hunk 2]
```diff
@@ -114,7 +114,8 @@ end Lattice
 
 section CanonicallyOrdered
 
-variable [AddCommMonoid α] [PartialOrder α] [CanonicallyOrderedAdd α] [LocallyFiniteOrder α]
+variable [AddCommMonoid α] [PartialOrder α] [CanonicallyOrderedAdd α]
+  [OrderBot α] [LocallyFiniteOrder α]
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Interval.lean:118]: Does `LocallyFiniteOrderBot` work here? They're the same mathematically, but this isn't consistent with what you did in `Mathlib/Algebra/Order/Antidiag/Prod.lean`

File: Mathlib/Data/Finsupp/Order.lean [hunk 3]
```diff
@@ -295,9 +295,9 @@ theorem support_inf [DecidableEq ι] (f g : ι →₀ α) : (f ⊓ g).support =
 
 @[simp]
 theorem support_sup [DecidableEq ι] (f g : ι →₀ α) : (f ⊔ g).support = f.support ∪ g.support := by
-  ext
-  simp only [Finset.mem_union, mem_support_iff, sup_apply, Ne, ← bot_eq_zero]
-  rw [_root_.sup_eq_bot_iff, not_and_or]
+  ext a
+  simp only [mem_support_iff, Ne, sup_apply, ← nonpos_iff_eq_zero, sup_le_iff, mem_union,
+    Classical.not_and_iff_not_or_not]
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Order.lean:300]: Is the `Classical` needed here?

**Review by j-loreaux — COMMENTED** [review]
makes sense to me given the Zulip discussion.

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
